US04739098
Ethyl 4-iodobenzoate
To a suspension of 10 g (40.32 mmol) 4-iodobenzoic acid (Alfa Products Thiokol/Ventron Division) in 100 ml absolute ethanol was added 2 ml thionyl chloride. This mixture was then heated at reflux for 3 hours. The solvent was removed in vacuo and the residue dissolved in 100ml of ether. The ether solution was washed with saturated NaHCO3 and saturated NaCl solutions and dried (MgSO4). Solvent was then removed in vacuo and the residue distilled on a kugelrohr apparatus (100° C.; 0.55 mm) to give 9 g of title compound as a colorless oil. PMR (CDCl13)δ 1.42 (3H, t, J~7 Hz), 4.4 (2H, q, J~7 Hz), 7.8 (4H, s).

reactant | 4-iodobenzoic acid | 40.32 mmol, 10 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 4-iodobenzoate | 9 g | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
